US05348955
Step A: N-Acetyl-3,5-dimethylaniline
To a solution of 15.2 g (125 mmole) of 3,5dimethylaniline in 60 mL of toluene was added 15 g (146 mmole) of acetic anhydride, whereupon the internal temperature rose to 75° C. The mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The residue was dissolved in 150 mL of hot ethyl acetate and the solution allowed to stand for 16 hours. The resulting mixture was cooled at 5° C. for 3 hours and the solid collected by filtration to give 18.43 g (90%) of off-white crystals.

reactant | 3,5dimethylaniline | 125 mmole, 15.2 g | CC=1C=C(N)C=C(C1)C | C8H11N
reactant | acetic anhydride | 146 mmole, 15 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | toluene | 60 mL | C1(=CC=CC=C1)C | C7H8
product | N-Acetyl-3,5-dimethylaniline | 18.43 g, 90% | C(C)(=O)NC1=CC(=CC(=C1)C)C | C10H13NO
